US08871758B2
5,5,6,6-Tetramethyl-2-(4-nitrophenoxy)-5,6-dihydro-1,4,3-oxathiazine 4,4-dioxide
7.40 g of chlorosulfonyl isocyanate and 7.27 g of 4-nitrophenol were dissolved in 75 ml of dichloromethane and stirred at room temperature for 90 minutes. The reaction solution was freed of the solvent under reduced pressure, and the residue was dissolved in 50 ml of THF and, under inert gas and at −78° C., admixed with 2.18 g of sodium hydride. After stirring for 5 minutes, 4.38 g of 2,3-dimethyl-2-butene were added and the reaction mixture was heated, gradually because of commencement of evolution of gas, to 35° C. After stirring for 30 minutes, the suspension was added to ice and the resulting THF/water mixture was extracted twice with 100 ml of ethyl acetate. The combined organic phases were dried over Na2SO4 and concentrated by rotary evaporation. The residue was purified in a purification laboratory by means of preparative HPLC. After lyophilization of the product-containing fractions, the product (2.76 g) was thus obtained with a molecular weight of 328.4 g/mol (C13H16N2O6S).

reactant | chlorosulfonyl isocyanate | 7.40 g | ClS(=O)(=O)N=C=O | CClNO3S
reactant | 4-nitrophenol | 7.27 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | sodium hydride | 2.18 g | [H-].[Na+]
reactant | 2,3-dimethyl-2-butene | 4.38 g | CC(C)=C(C)C | C6H12
solvent | dichloromethane | 75 ml | ClCCl | CH2Cl2
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 5,5,6,6-Tetramethyl-2-(4-nitrophenoxy)-5,6-dihydro-1,4,3-oxathiazine 4,4-dioxide | 2.76 g | CC1(S(N=C(OC1(C)C)OC1=CC=C(C=C1)[N+](=O)[O-])(=O)=O)C | C13H16N2O6S
